US07737239B2
(3,6-di-tert-butyl-fluorenyl)diphenylmethane
In a 200 ml three-necked flask equipped with a magnetic stirrer chip and three-way cock thoroughly purged with nitrogen, 3.01 g of 3,6-di-tert-butyl-fluorene (10.8 mmol) was dissolved in 80 ml of dehydrated diethyl ether in a nitrogen atmosphere. To the solution, 7.6 ml of a n-butyl lithium/hexane solution (1.56M: 11.9 mmol) was gradually added dropwise in an ice bath and stirred at room temperature over night. To the reaction solution, 50 ml of a solution prepared by dissolving 4.86 g of 3-tert-butyl-1-methyl-6,6-diphenyl fulvene (16.2 mmol) in 50 ml of dehydrated diethyl ether was added and stirred with refluxing for 13 days. To the reaction mixture, 30 ml of distilled water was gradually added dropwise in an ice bath, and thereafter diethyl ether was added to separate an organic phase. The organic phase was washed with distilled water and saturated brine. The organic phase was dried with anhydrous magnesium sulfate, thereafter the drying agent was filtered off and the solvent was distilled off from the filtrate under reduced pressure to give red solid. The red solid was re-crystallized using ethanol and dried under reduced pressure, and thereby the aimed compound was obtained in an amount of 4.42 g (7.63 mmol) as a pale yellow solid (yield: 71%).

reactant | 3,6-di-tert-butyl-fluorene | 10.8 mmol, 3.01 g | C(C)(C)(C)C=1C=CC=2CC3=CC=C(C=C3C2C1)C(C)(C)C | C21H26
reactant | n-butyl lithium hexane | 11.9 mmol, 1.56M, 7.6 ml | C(CCC)[Li].CCCCCC
reactant | 3-tert-butyl-1-methyl-6,6-diphenyl fulvene | 16.2 mmol, 4.86 g | C(C)(C)(C)C=1C=C(C(C1)=C(C1=CC=CC=C1)C1=CC=CC=C1)C | C23H24
reactant | water | 30 ml | O | H2O
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | (3,6-di-tert-butyl-fluorenyl)diphenylmethane | C(C)(C)(C)C=1C=C(C=2CC3=CC=C(C=C3C2C1)C(C)(C)C)C(C1=CC=CC=C1)C1=CC=CC=C1 | C34H36
